* C:\Users\leone\Documents\repos\C2\simulaciones\checkpoint4\Support\Support.asc
XU1 0 vb r TL431
Q1 Vin vb Vo 0 BC847B
R1 vb Vin 3.3k
V1 Vin 0 11.85
R2 Vo r 30k
R3 r 0 24.7k
R4 Vo N004 3.6k
R5 N004 0 1k
XU2 Vin V+ Vo 0 0 0 Ven1 NC_01 LT1016
R6 Vin N002 11k
R7 V+ 0 10k
XU3 N004 Vref Vin 0 Vref LM324
XU4 Vo Vsup Vin 0 Vsup LM324
XU5 Vin V+2 Vo 0 0 0 NC_02 Ven2 LT1016
R9 Vin N001 51k
R11 P001 0 10k
R8 N002 V+ 270
R10 N001 V+2 3.6k
M1 Vsup Ven2 N003 N003 FDS6680
R13 ven 0 22k
R12 V+2 P001 68
M2 N003 Ven1 ven ven FDS6680
.model NPN NPN
.model PNP PNP
.lib C:\Users\leone\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\leone\AppData\Local\LTspice\lib\cmp\standard.mos
.op
.include TL431.lib
.include LM324.ti.lib
.lib LTC.lib
.backanno
.end
